US06521666B1
N-(2,6-Dichlorobenzoyl)-4-(2-aminophenyl)-L-phenylalanine methyl ester TFA salt (90 mg) was dissolved in dry THF (5 mL). Ac2O (60 μL) and DIEA (160 μL) were added and the mixture was stirred at room temperature for 12 h. EtOAc was added and the resulting mixture was extracted with water. The organic phase was dried (MgSO4) and evaporated to give N-(2,6-dichlorobenzoyl)-4-[2-(acetylamino)]phenyl]-L-phenylalanine methyl ester.

reactant | N-(2,6-Dichlorobenzoyl)-4-(2-aminophenyl)-L-phenylalanine methyl ester TFA salt | 90 mg | OC(=O)C(F)(F)F.COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)N)=O
reactant | Ac2O | 60 μL | CC(=O)OC(=O)C | C4H6O3
reactant | DIEA | 160 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
